US06949648B2
3-Methyl-1-(6-methyl-2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one
To a solution of 4-chloro-3-methyl-1-(6-methyl-2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline (2.00 g, 6.48 mmol) in ethanol (90 mL), 6N hydrochloric acid (3 mL, 18.0 mmol) was added and the mixture was heated under reflux for 4 hours. The reaction solution was allowed to cool to room temperature, and the resulting crystals were collected by filtration. The crystals were washed with ethanol, air dried, and recrystallized from ethanol to give the title compound (1.55 g, 82% yield).

reactant | 4-chloro-3-methyl-1-(6-methyl-2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 6.48 mmol, 2.00 g | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC(=CC=C2)C | C17H13ClN4
reactant | hydrochloric acid | 18.0 mmol, 6N, 3 mL | Cl | ClH
reactant | ethanol | 90 mL | C(C)O | C2H6O
product | 3-Methyl-1-(6-methyl-2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one | 1.55 g, 82% yield | CC1=NN(C=2NC3=CC=CC=C3C(C21)=O)C2=NC(=CC=C2)C | C17H14N4O
